* H:\Desktop\ShR2\SPICE Simulations\Isolation.asc
V1 Vin 0 AC 1
L1 0 N005 .002
L2 0 N006 .001992
R2 N005 Vin .0008
R3 N007 N006 .001
R4 Vsd N007 100k tol=5
R1 Vsd 0 9.07k tol=1
XU2 0 N001 VCC N012 N002 LTC6082
R5 N008 Vsd 8.2k
R6 N009 N008 8.2k
R7 0 N014 4.1k
C1 N008 0 .66µF
C2 N014 Vsd .33µF
C3 N009 N014 .33µF
R8 N001 N009 1k
V3 VCC 0 5
R14 N002 N001 10k
V4 N012 0 -5v
R9 N010 N002 8.2k
R10 N011 N010 8.2k
R11 0 N015 4.1k
C4 N010 0 .66µF
C5 N015 N002 .33µF
C6 N011 N015 .33µF
XU1 0 N003 VCC N013 N004 LTC6082
R12 N004 N003 20k
V5 N013 0 -5v
R13 N003 N011 1k
;tran 0 .2 .1 startup uic
K L1 L2 1
* This is a circuit simulation of a galvanically isolated\nsignal conditioning circuit designed to separate\ntransients from the 60Hz carrier of wall-juice, and\nto buffer the input properly for a high speed ADC.
* The output supports transients up to 10V with a\n100kHz bandwidth (limit of transformer), and at \nleast a few LSB within .001V.
* 60Hz Main
* 60-Hz Low-Q Twin T Notch
* 60-Hz Low-Q Twin T Notch
.ac dec 30 60 100k
.lib LTC6.lib
.backanno
.end
